US08492401B2
4-acetamidobenzenesulfonyl azide (1.5 ml) was added to a solution of tert-butyl 3-oxobutanoate (1.86 g, 10.12 mmol) and TEA (3.85 ml) in CH3CN (60 ml). The mixture was stirred at room temperature overnight, concentrated and purified by flash chromatography to give tert-butyl 2-diazo-3-oxobutanoate as a yellow liquid (1.3 g, 77% yield).

reactant | 4-acetamidobenzenesulfonyl azide | 1.5 ml | C(C)(=O)NC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] | C8H8N4O3S
reactant | tert-butyl 3-oxobutanoate | 10.12 mmol, 1.86 g | O=C(CC(=O)OC(C)(C)C)C | C8H14O3
solvent | CH3CN | 60 ml | CC#N | C2H3N
product | tert-butyl 2-diazo-3-oxobutanoate | 1.3 g, 77% yield | [N+](=[N-])=C(C(=O)OC(C)(C)C)C(C)=O | C8H12N2O3
